* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft3.asc
J1 N001 N002 0 2N3819
V1 N002 0 PWL(0 -3 1 0)
V2 N001 0 12
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.tran 1
.backanno
.end
